US06649656B1
Synthesis of 1-(4-(6-benzyloxy-2-naphthyloxy)phenyl)ethan-1-one
4-Fluoroacetophenone (969 μl, 8.00 mmol) was added to dry N,N-dimethylacetamide (12 ml) solution of 6-benzyloxy-2-naphthol (500 mg, 2.00 mmol) and potassium carbonate (553 mg, 4.00 mmol) in nitrogen atmosphere and stirred at 150° C. for 5 hours. After completing the reaction, 10% citric acid was added to the reaction liquid, extracted with methylene chloride, washed with water, dried with magnesium sulfate and concentrated. The obtained residue was purified by silica gel chromatography to obtain the subject compound (707 mg, 1.92 mmol). The result of 1H-NMR was consistent with the above structure.

reactant | 4-Fluoroacetophenone | 8.00 mmol, 969 μl | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | 6-benzyloxy-2-naphthol | 2.00 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)O | C17H14O2
reactant | potassium carbonate | 4.00 mmol, 553 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylacetamide | 12 ml | CN(C(C)=O)C | C4H9NO
product | 1-(4-(6-benzyloxy-2-naphthyloxy)phenyl)ethan-1-one | 1.92 mmol, 707 mg, Yield: 96% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)OC1=CC=C(C=C1)C(C)=O | C25H20O3
